US08114902B2
(20-1) Synthesis of N-(5-{2-[4-(5-formyl-2-thienyl)phenyl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide
A mixed solution of N-{5-[2-(4-bromophenyl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide (1.07 g) of Reference Example 5, 5-formyl-2-thiopheneboronic acid (0.56 g), sodium hydrogen carbonate (1.51 g), palladium(II) acetate (33.7 mg) and 2-(di-t-butylphosphino)biphenyl (89.5 mg) in 1,2-dimethoxyethane (12 mL)-water (4 mL) was stirred at 65° C. for 9 hr under a nitrogen atmosphere. The reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (0.25 g) as brown crystals.

reactant | N-{5-[2-(4-bromophenyl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 1.07 g | BrC1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C16H22BrNO3
reactant | 5-formyl-2-thiopheneboronic acid | 0.56 g | C(=O)C1=CC=C(S1)B(O)O | C5H5BO3S
reactant | sodium hydrogen carbonate | 1.51 g | C(O)([O-])=O.[Na+]
reactant | 2-(di-t-butylphosphino)biphenyl | 89.5 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | 1,2-dimethoxyethane | 12 mL | COCCOC | C4H10O2
catalyst | palladium(II) acetate | 33.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 4 mL | O | H2O
product | N-(5-{2-[4-(5-formyl-2-thienyl)phenyl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide | 0.25 g | C(=O)C1=CC=C(S1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C21H25NO4S
